US05037919
A sample of 4-trifluoroethenyloxyanisole prepared as in Example 2 is treated with two equivalents of trimethylchlorosilane and sodium iodide in refluxing acetonitrile to give 4-trifluoroethenyloxyphenol. The product is extracted with ether, washed with sodium thiosulfate solution to remove iodine, and then concentrated by rotary evaporation.

reactant | 4-trifluoroethenyloxyanisole | FC(=C(F)F)OC1=CC=C(C=C1)OC | C9H7F3O2
reactant | trimethylchlorosilane | two equivalents | C[Si](Cl)(C)C | C3H9ClSi
reactant | sodium iodide | [I-].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-trifluoroethenyloxyphenol | FC(=C(F)F)OC1=CC=C(C=C1)O | C8H5F3O2
